US05444084
44.6 g of 4-cyanobutyl(triphenyl)phosphonium bromide is suspended in 250 ml of dimethylformamide, 4.2 g of 60% oily sodium hydride is added under ice cooling and stirring, the mixture is stirred at that temperature for 30 minutes, 18 g of 3-(3-thienyl)benzaldehyde is added, and the mixture is stirred at room temperature for 20 hours. Water and acetic acid are added to the reaction solution for neutralization, the solvent is distilled off under reduced pressure, and the residue is post-treated in a conventional manner and purified by silica gel column chromatography [Wako gel C-100, 500 g; hexane/ethyl acetate=5/1] to obtain 23.2 g of (E)-3-[3-(5-cyano-1-pentenyl)phenyl]thiophene as colorless oil.

reactant | 4-cyanobutyl(triphenyl)phosphonium bromide | 44.6 g | [Br-].C(#N)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 4.2 g | [H-].[Na+]
reactant | 3-(3-thienyl)benzaldehyde | 18 g | S1C=C(C=C1)C=1C=C(C=O)C=CC1 | C11H8OS
reactant | Water | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (E)-3-[3-(5-cyano-1-pentenyl)phenyl]thiophene | 23.2 g | C(#N)CCC/C=C/C=1C=C(C=CC1)C1=CSC=C1 | C16H15NS
